US06949579B2
N-[6-(trifluoromethyl)-1H-indazol-3-yl]butanamide
0.26 cm3 of butyryl chloride is added to 500 mg of 6-(trifluoromethyl)-1H-indazole-3-amine, prepared as described in patent U.S. Pat. No. 3,133,081, in 5 cm3 of pyridine, cooled to about 10° C. The temperature is allowed to return to about 19° C. over 19 hours. The reaction medium is evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 15 cm3 of ethyl acetate and 15 cm3 of distilled water. The organic phase is washed with 15 cm3 of distilled water and with 15 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume) and collecting 20 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 45° C.), 49 mg of N-[6-(trifluoromethyl)-1H-indazol-3-yl]butanamide are thus obtained in the form of a white solid melting at 200° C.

reactant | butyryl chloride | 0.26 cm3 | C(CCC)(=O)Cl | C4H7ClO
reactant | 6-(trifluoromethyl)-1H-indazole-3-amine | 500 mg | FC(C1=CC=C2C(=NNC2=C1)N)(F)F | C8H6F3N3
solvent | pyridine | 5 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[6-(trifluoromethyl)-1H-indazol-3-yl]butanamide | FC(C1=CC=C2C(=NNC2=C1)NC(CCC)=O)(F)F | C12H12F3N3O
